US09102682B2
To a solution of benzyl N-[1-(aminomethyl)cyclohexyl]carbamate 10.0 g (0.0381 mole) in THF (150 mL) was added di-tert-butyl dicarbonate (9.15 g, 1.1 eq) and the contents stirred at room temperature for 16 hrs. Ethyl acetate and water was then added. The organic layer was separated, dried over magnesium sulfate and then concentrated under vacuum to afford tert-butyl N-[[1-(benzyloxycarbonylamino)cyclohexyl]methyl]carbamate (13.1 g). 1H NMR (600 MHz, DMSO-d6) δ ppm 0.92-1.54 (m, 17H) 1.76-2.06 (m, 2H) 3.09 (d, J=6.15 Hz, 2H) 4.92 (s, 2H) 6.63 (d, J=17.27 Hz, 1H) 7.16-7.49 (m, 6H). LCMS (ESI) 363 (M+H).

reactant | benzyl N-[1-(aminomethyl)cyclohexyl]carbamate | 0.0381 mole, 10.0 g | NCC1(CCCCC1)NC(OCC1=CC=CC=C1)=O | C15H22N2O2
reactant | di-tert-butyl dicarbonate | 9.15 g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[[1-(benzyloxycarbonylamino)cyclohexyl]methyl]carbamate | 13.1 g | C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)CNC(OC(C)(C)C)=O | C20H30N2O4
